US06846835B2
(3S)-pyrrolidin-3-yl(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-(4-bromophenyl)ethanoate
Using (2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-(4-bromophenyl)acetic acid and t-butyl(3S)-3-hydroxypyrrolidine-1-carboxylate, the title compound was prepared by a method similar to Steps 2 and 3 of Referential Example 12.

reactant | (2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-(4-bromophenyl)acetic acid | FC1(C[C@@H](CC1)[C@](C(=O)O)(C1=CC=C(C=C1)Br)O)F | C13H13BrF2O3
reactant | t-butyl(3S)-3-hydroxypyrrolidine-1-carboxylate | O[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
product | (3S)-pyrrolidin-3-yl(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-(4-bromophenyl)ethanoate | FC1(C[C@@H](CC1)[C@](C(=O)O[C@@H]1CNCC1)(C1=CC=C(C=C1)Br)O)F | C17H20BrF2NO3
